US07105567B2
In the same manner as in Example 62, reaction and treatment were conducted using (4-isopropylphenyl)({1-[(4-methyl-2-pyridyl)methyl]pyrazol-4-yl}methyl)amine (0.42 g) and 2,6-diisopropylphenyl isocyanate (0.42 mL) as starting materials. Further, the obtained oil compound was converted to hydrochloride with 4N hydrochloric acid-ethyl acetate to give N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-({1-[(4-methyl-2-pyridyl)methyl]pyrazol-4-yl}methyl)urea hydrochloride (0.33 g).

reactant | (4-isopropylphenyl)({1-[(4-methyl-2-pyridyl)methyl]pyrazol-4-yl}methyl)amine | 0.42 g | C(C)(C)C1=CC=C(C=C1)NCC=1C=NN(C1)CC1=NC=CC(=C1)C | C20H24N4
reactant | 2,6-diisopropylphenyl isocyanate | 0.42 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethyl acetate | 4N | Cl.C(C)(=O)OCC
product | N′-(2,6-diisopropylphenyl)-N-(4-isopropylphenyl)-N-({1-[(4-methyl-2-pyridyl)methyl]pyrazol-4-yl}methyl)urea hydrochloride | 0.33 g | Cl.C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(CC=1C=NN(C1)CC1=NC=CC(=C1)C)C1=CC=C(C=C1)C(C)C)=O | InChI=1S/C33H41N5O.ClH/c1-22(2)27-11-13-29(14-12-27)38(20-26-18-35-37(19-26)21-28-17-25(7)15-16-34-28)33(39)36-32-30(23(3)4)9-8-10-31(32)24(5)6;/h8-19,22-24H,20-21H2,1-7H3,(H,36,39);1H
